US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol), cyclobutanamine (4.95 mg, 0.070 mmol), HATU (22.92 mg, 0.060 mmol), and 4-methylmorpholine (18.76 mg, 0.185 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 12 min, 20 mL/min, 220 nM, product retention=14.17 min) to provide (R/S)-N-cyclobutyl-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (7 mg, 0.011 mmol, 23.93% yield): LCMS=485.3 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.12-8.23 (2 H, m), 7.53-7.73 (7 H, m), 5.09 (1 H, s), 4.15-4.42 (1 H, m), 2.28 (2 H, dddd, J=10.07, 4.90, 4.62, 2.86 Hz), 1.98-2.13 (2 H, m), 1.70-1.79 (2 H, m); HPLC peak RT=10.4 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | cyclobutanamine | 0.070 mmol, 4.95 mg | C1(CCC1)N | C4H9N
reactant | HATU | 0.060 mmol, 22.92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.185 mmol, 18.76 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-cyclobutyl-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.011 mmol, 7 mg, 23.93% yield | C1(CCC1)NC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C24H19F3N4O4
